US07732446B1
As described in example 1E, 100 mg of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid was coupled with 2-methoxy-ethylamine to give 92 mg of [6,8-dimethoxy-4-(2-methoxy-ethylcarbamoyl)-isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester. H1-NMR (CDCl3): δ, 8.46 (s, 1H), 7.34 (s, 1H), 6.73 (br s, 1H), 6.59 (s, 1H), 6.51 (br s, 1H), 5.03 (d, J=3.9 Hz, 2H), 3.98 (s, 3H), 3.95 (s, 3H), 3.75 (q, J=5.1 Hz, 2H), 3.65 (t, J=5.1 Hz, 2H), 3.43 (s, 3H), 1.54 (s, 9H).

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | [6,8-dimethoxy-4-(2-methoxy-ethylcarbamoyl)-isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester | 92 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(NCCOC)=O)=O | C21H29N3O6
